US06943255B2
N-(2-Methylpropyl)-5-methyl-8-nitrotetraazolo[1,5-α]pyridin-7-amine (9.60 g, 43.6 mmol) was dissolved in warm anhydrous toluene (900 mL) and methanol (100 mL) and then added to a 2 L stainless steel Parr vessel. The vessel was flushed several times with nitrogen, and 5% platinum on carbon (2.0 g) was added to the solution. The vessel was flushed multiple times with hydrogen, and then placed under hydrogen pressure (50 psi, 3.4×105 Pa). After two hours, no further hydrogen was consumed. The reaction mixture was filtered through a layer of filter agent (available from Aldrich, Milwaukee, Wis. under the trade name CELITE), and the filter cake was washed with hot toluene (1 L). The filtrate was concentrated under reduced pressure to yield 8.5 g N7-(2-methylpropyl)-5-methyltetraazolo[1,5-α]pyridine-7,8-diamine as a light orange solid, m.p. 159-162° C.

reactant | N-(2-Methylpropyl)-5-methyl-8-nitrotetraazolo[1,5-α]pyridin-7-amine | 43.6 mmol, 9.60 g | CC(CNC1=C(C=2N(C(=C1)C)N=NN2)[N+](=O)[O-])C | C10H14N6O2
reactant | methanol | 100 mL | CO | CH4O
solvent | toluene | 900 mL | C1(=CC=CC=C1)C | C7H8
product | N7-(2-methylpropyl)-5-methyltetraazolo[1,5-α]pyridine-7,8-diamine | 8.5 g | CC(CNC1=C(C=2N(C(=C1)C)N=NN2)N)C | C10H16N6
